US07989802B2
A mixed solution of 9.4 g of 1-bromopyrene, 4.5 g of phenylboronic acid, 13 g of cesium carbonate, 348 mg of (tri-tert-butylphosphine) tetrafluoroborate, 575 mg of bis(dibenzylideneacetone)palladium(0), and 33 ml of 1,4-dioxane was heated and stirred at 100° C. for 3 hours under a nitrogen stream. The solution was cooled to room temperature and then filtered through celite. The filtrate was evaporated, and the resulting concentrate was purified by silica gel column chromatography and dried under vacuum to give 7.8 g of 1-phenylpyrene.

reactant | 1-bromopyrene | 9.4 g | BrC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C16H9Br
reactant | phenylboronic acid | 4.5 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | cesium carbonate | 13 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | bis(dibenzylideneacetone)palladium(0) | 575 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | (tri-tert-butylphosphine) tetrafluoroborate | 348 mg | F[B-](F)(F)F.C(C)(C)(C)P(C(C)(C)C)C(C)(C)C
solvent | 1,4-dioxane | 33 ml | O1CCOCC1 | C4H8O2
product | 1-phenylpyrene | 7.8 g | C1(=CC=CC=C1)C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C22H14
